US07579488B2
[(5-{1-Ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-benzofuran-2-carbonyl)-methyl-amino]-acetic acid
[(5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-2-carbonyl)-methyl-amino]-acetic acid (130 mg, 0.256 mmol) in THF (2.0 mL) are reacted with NaBH4 (19 mg, 0.513 mmol) analogous to Example 8 to yield title compound (120 mg, 92%). MS (ES) m/e: 508.3 (M−1), 510.3 (M+1)

reactant | [(5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzofuran-2-carbonyl)-methyl-amino]-acetic acid | 0.256 mmol, 130 mg | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1C=CC2=C(C=C(O2)C(=O)N(C)CC(=O)O)C1)C)=O)(C)C | C30H37NO6
reactant | NaBH4 | 0.513 mmol, 19 mg | [BH4-].[Na+]
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | [(5-{1-Ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-benzofuran-2-carbonyl)-methyl-amino]-acetic acid | 120 mg, 92% | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C=1C=CC2=C(C=C(O2)C(=O)N(C)CC(=O)O)C1 | C30H39NO6
